US08236792B2
(2R,4S)-1-[4-(3-Fluoro-phenoxy)-2-(4-isopropyl-[1,4]diazepane-1-carbonyl)-pyrrolidin-1-yl]-ethanone.
To a solution of (2R,4S)-1-[2-([1,4]diazepane-1-carbonyl)-4-(3-fluoro-phenoxy)-pyrrolidin-1-yl]-ethanone (220 mg, 0.63 mmol) in dichloroethane (3 mL) was added acetone (324 μL, 4.41 mmol) and sodium triacetoxyborohydride (199 mg, 0.945 mmol). After 2 days, the reaction mixture was diluted with satd. aq. NaHCO3 and extracted with CH2Cl2 (4×). The combined organic layers were dried and concentrated. Purification of the residue by FCC provided the desired product (205 mg, 83%). MS (ESI): mass calcd. for C21H30FN3O3, 391.23; m/z found, 392.3 [M+H]+. 1H NMR (CDCl3): 7.22 (ddd, J=8.3, 8.3, 6.9 Hz, 1H), 6.69-6.64 (m, 1H), 6.63 (dd, J=8.3, 2.3 Hz, 1H), 6.57 (ddd, J=10.6, 2.2, 2.2 Hz, 1H), 5.09-5.03 (m, 1H), 5.00-4.95 (m, 1H), 4.03 (dd, J=11.1, 4.9 Hz, 1H), 3.74-3.59 (m, 4H), 3.55-3.45 (m, 1H), 2.92-2.78 (m, 1H), 2.75-2.51 (m, 4H), 2.40-2.23 (m, 2H), 2.04 (s, 3H), 2.01-1.92 (m, 1H), 1.85-1.67 (m, 1H), 1.00-0.94 (m, 6H).

reactant | (2R,4S)-1-[2-([1,4]diazepane-1-carbonyl)-4-(3-fluoro-phenoxy)-pyrrolidin-1-yl]-ethanone | 0.63 mmol, 220 mg | N1(CCNCCC1)C(=O)[C@@H]1N(C[C@H](C1)OC1=CC(=CC=C1)F)C(C)=O | C18H24FN3O3
reactant | acetone | 4.41 mmol, 324 μL | CC(=O)C | C3H6O
reactant | sodium triacetoxyborohydride | 0.945 mmol, 199 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 3 mL | ClC(C)Cl | C2H4Cl2
product | (2R,4S)-1-[4-(3-Fluoro-phenoxy)-2-(4-isopropyl-[1,4]diazepane-1-carbonyl)-pyrrolidin-1-yl]-ethanone | 205 mg, 83% | FC=1C=C(O[C@H]2C[C@@H](N(C2)C(C)=O)C(=O)N2CCN(CCC2)C(C)C)C=CC1 | C21H30FN3O3
